US09428510B2
1.5 equivalents of N-iodosuccinimide are added at room temperature to 5 g (32.7 mmol) of a methyl 3-aminopyrazine-2-carboxylate solution in 25 ml of dimethylformamide. The reaction medium is heated at 65° C. for 1 hour, added together with 0.5 equivalents of N-iodosuccinimide and maintained at 65° C. for 24 hours. After returning to room temperature, the solvent is evaporated and then the product is extracted several times with dichloromethane. The organic phases are combined, washed with 10% sodium bisulfite solution, dried on magnesium sulfate and concentrated to yield 8 g (88%) of methyl 3-amino-6-iodopyrazine-2-carboxylate in the form of a yellow solid.

reactant | N-iodosuccinimide | 1.5 equivalents | IN1C(CCC1=O)=O | C4H4INO2
reactant | methyl 3-aminopyrazine-2-carboxylate | 32.7 mmol | NC=1C(=NC=CN1)C(=O)OC | C6H7N3O2
reactant | N-iodosuccinimide | 0.5 equivalents | IN1C(CCC1=O)=O | C4H4INO2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | methyl 3-amino-6-iodopyrazine-2-carboxylate | 8 g, 88% | NC=1C(=NC(=CN1)I)C(=O)OC | C6H6IN3O2
